US04791220
A mixture of 213 g of methyl 2-trans-pentenoate and 64 g of piperazine was stirred for 44 hours at 60° C. Fractional distillation gave 77.1 g of methyl 3-piperazinovalerate of boiling point 105° C./0.4 mbar, nD20 =1.4740, the yield being 51%, based on piperazine used. delta =0.70-1.80 (m, 5 H), 1.72 (s, 1 H), 2.0-3.2 (m, 11 H), 3.70 ppm (s, 3 H).

reactant | methyl 2-trans-pentenoate | 213 g | C(\C=C\CC)(=O)OC | C6H10O2
reactant | piperazine | 64 g | N1CCNCC1 | C4H10N2
product | methyl 3-piperazinovalerate | 77.1 g | N1(CCNCC1)C(CC(=O)OC)CC | C10H20N2O2
